US05536714
N-(Diphenylmethyl)androsta-4-ene-3-one-17β-carboxamide
0.108 ml of benzhydrylamine was added to a solution of 100 mg of androsta-4-ene-3-one-17β-carboxylic acid, a catalytic amount of 4-dimethylaminopyridine and 0.132 ml of triethylamine in 4 ml of methylene chloride. 0.050 ml of trifluoromethanesulfonyl chloride was divided into three portions and added to this reaction mixture at intervals of 30 minutes at room temperature, whilst stirring. One hour after finishing the addition of trifluoromethanesulfonyl chloride, the reaction mixture was diluted with methylene chloride, washed with 1 N aqueous hydrochloric acid, with water, with an aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order. It was then dried over anhydrous magnesium sulfate, and concentrated by evaporation under reduced pressure. The resulting residue was crystallized from acetone to give 135.2 mg (yield 89%) of the title compound, having the same properties as the product of Preparation 17.

reactant | benzhydrylamine | 0.108 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | androsta-4-ene-3-one-17β-carboxylic acid | 100 mg | C[C@@]12[C@H](CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(=O)O | C20H28O3
reactant | triethylamine | 0.132 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonyl chloride | 0.050 ml | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | N-(Diphenylmethyl)androsta-4-ene-3-one-17β-carboxamide | 135.2 mg, yield 89% | C1(=CC=CC=C1)C(NC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)C2=CC=CC=C2 | C33H39NO2
